US06066662
A solution of 3.8 g of benzyl tert-butyl malonate in 50 ml of 1,2-dimethoxyethane was treated with 0.504 g of an 80% dispersion of sodium hydride in mineral oil. The mixture was stirred at room temperature for 30 minutes and then cooled to 0°. A solution of 5.37 g of benzyl 3-cyclopropyl-2(R)-trifluoromethylsulphonyloxypropionate in 20 ml of dichloromethane was added dropwise at 0°. The mixture was stirred at 0° for 2 hours and then left to warm to room temperature overnight. The solvent was evaporated and the residue was dissolved in ethyl acetate. The solution was washed with water and saturated sodium chloride solution. After drying over anhydrous magnesium sulphate the solvent was evaporated to give 6.54 g of 2,3-dibenzyl 3-tert-butyl 1-cyclopropyl-2(R),3(R,S),3-propane-tricarboxylate as a 1:1 mixture of diastereoisomers in the form of an orange oil.

reactant | benzyl tert-butyl malonate | 3.8 g | C(CC(=O)OC(C)(C)C)(=O)OCC1=CC=CC=C1 | C14H18O4
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl 3-cyclopropyl-2(R)-trifluoromethylsulphonyloxypropionate | 5.37 g | C1(CC1)C[C@H](C(=O)OCC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F | C14H15F3O5S
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2,3-dibenzyl 3-tert-butyl 1-cyclopropyl-2(R),3(R,S),3-propane-tricarboxylate | 6.54 g | C1(CC1)C[C@H](C(C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C27H32O6
